US05280039
C. Methyl 3-methoxy-4-(5-nitroindol-3-ylmethyl)benzoate
Silver oxide (2.32 grams) was added to a solution of 5-nitroindole (1.62 grams) and methyl 4-bromoethyl-3-methoxybenzoate (2.6 grams) in 10 mL of dioxane. The mixture was heated at 60° for 20 hours. The dioxane was evaporated and ethyl acetate was added to the residue. The resulting suspension was filtered. The filtrate was evaporated and the residue was purified on silica with hexane/ethyl acetate to give 1.8 grams of title compound, m.p. 162°-163°.

reactant | 5-nitroindole | 1.62 grams | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | methyl 4-bromoethyl-3-methoxybenzoate | 2.6 grams | BrCCC1=C(C=C(C(=O)OC)C=C1)OC | C11H13BrO3
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Silver oxide | 2.32 grams | [Ag]=O
product | Methyl 3-methoxy-4-(5-nitroindol-3-ylmethyl)benzoate | 1.8 grams | COC=1C=C(C(=O)OC)C=CC1CC1=CNC2=CC=C(C=C12)[N+](=O)[O-] | C18H16N2O5
